USRE029439
5-chloro-3-phenyl-1,2,4-oxadiazole (36 parts) was added portionwise to a solution of ethyl mercaptoacetate (24 parts) and sodium methoxide (11 parts) in methanol (500 parts). The temperature rose to about 50° C. and the mixture was allowed to stand for three hours. The product was poured into an excess of cold water, and extracted with benzene, washed with water and the solvent then evaporated off. Recrystallisation gave ethyl(3-phenyl-1,2,4-oxadiazol-5-ylthio)acetate (40 parts, 75% yield), melting point 50-52° C.

reactant | 5-chloro-3-phenyl-1,2,4-oxadiazole | ClC1=NC(=NO1)C1=CC=CC=C1 | C8H5ClN2O
reactant | ethyl mercaptoacetate | SCC(=O)OCC | C4H8O2S
reactant | sodium methoxide | C[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | ethyl(3-phenyl-1,2,4-oxadiazol-5-ylthio)acetate | 75% yield | C(C)OC(CSC1=NC(=NO1)C1=CC=CC=C1)=O | C12H12N2O3S
